US06048842
3-(5-Benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone (500 mg) is dissolved in N,N-dimethylacetamide (3.5 ml), and thereto is added triethylamine (315 mg). To the mixture is added dropwise acetyl chloride (282 mg) under ice-cooling, and the mixture is stirred under ice-cooling for 30 minutes, and stirred at room temperature overnight. The reaction mixture is poured into chilled 10% aqueous citric acid solution, and extracted with ethyl acetate. The organic layer is washed with water, dried, and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (solvent; chloroform/methanol) to give 3-(5-benzo[b]-furanyl)-2'-(6-O-acetyl-β-D-glucopyranosyloxy)-6'-acetoxy-4'-methylpropiophenone (304 mg).

reactant | 3-(5-Benzo[b]furanyl)-2'-(β-D-glucopyranosyloxy)-6'-hydroxy-4'-methylpropiophenone | 500 mg | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2O)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)CO | C24H26O9
reactant | triethylamine | 315 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 282 mg | C(C)(=O)Cl | C2H3ClO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N,N-dimethylacetamide | 3.5 ml | CN(C(C)=O)C | C4H9NO
product | 3-(5-benzo[b]-furanyl)-2'-(6-O-acetyl-β-D-glucopyranosyloxy)-6'-acetoxy-4'-methylpropiophenone | 304 mg | O1C2=C(C=C1)C=C(C=C2)CCC(=O)C2=C(C=C(C=C2OC(C)=O)C)O[C@H]2[C@H](O)[C@@H](O)[C@H](O)[C@H](O2)COC(C)=O | C28H30O11
